US08623889B2
Step 4: (1S,2S)-2-fluoro-N-(7-(5-fluoro-2-(hydroxymethyl)-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of (1S,2S)-2-fluoro-N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide (230 mg, 0.648 mmol), (3-bromo-5-fluoro-4-methyl-2-pyridyl)methanol (143 mg, 0.648 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (46 mg, 0.065 mmol) and saturated aqueous sodium carbonate solution (0.3 mL) in acetonitrile (3 mL) was heated under microwave irradiation (Biotage) at 130° C. for 30 minutes. The reaction mixture was diluted with ethyl acetate (30 mL) and washed with water (15 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by reverse phase HPLC (5-85% acetonitrile in water w/0.1% NH4OH, 14 min). Desired fractions were combined and evaporated in vacuo to afford the title compound as an off-white solid (26 mg, 11%). 1H NMR (400 MHz, DMSO) δ 10.98 (s, 1H), 9.16 (s, 1H), 8.54 (s, 2H), 7.99 (m, 2H), 7.59 (d, J=8.4 Hz, 1H), 5.08-4.81 (m, 2H), 4.24 (s, 2H), 2.34-2.22 (m, 1H), 2.00 (s, 3H), 1.70 (m, 1H), 1.20 (m, 1H). LCMS (Method E): RT=6.66 min, M+H+=370.0.

reactant | (1S,2S)-2-fluoro-N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.648 mmol, 230 mg | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C19H22BFN2O3
reactant | (3-bromo-5-fluoro-4-methyl-2-pyridyl)methanol | 0.648 mmol, 143 mg | BrC=1C(=NC=C(C1C)F)CO | C7H7BrFNO
reactant | sodium carbonate | 0.3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.065 mmol, 46 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (1S,2S)-2-fluoro-N-(7-(5-fluoro-2-(hydroxymethyl)-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 26 mg, 11% | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C(=NC=C(C1C)F)CO | C20H17F2N3O2
